US04372953
Aluminum chloride (16 g, 0.12 mol) is suspended in carbon tetrachloride (80 ml). To the suspension is added dropwise 4-chlorovaleric acid chloride (18.6 g, 0.12 mol) with ice-cooling. The mixture is stirred for 15 minutes and benzene (7.8 g, 0.1 mol) is added dropwise to the mixture at below 5° C. Stirring is continued at the same temperature for 1 hour. The mixture is poured into ice-hydrochloric acid and extracted with chloroform. The chloroform layer is washed with water, saturated aqueous sodium bicarbonate, water and then saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. Chloroform is distilled off and the resulting crude crystals are recrystallized from hexane to obtain 4-chlorobutyl phenyl ketone (8.3 g) as colorless flakes, m.p. 49°-50° C.

reactant | Aluminum chloride | 0.12 mol, 16 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorovaleric acid chloride | 0.12 mol, 18.6 g | ClC(CCC(=O)Cl)C | C5H8Cl2O
reactant | benzene | 0.1 mol, 7.8 g | C1=CC=CC=C1 | C6H6
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-chlorobutyl phenyl ketone | 8.3 g | C1(=CC=CC=C1)C(=O)CCCCCl | C11H13ClO
